US07858652B2
To a stirred solution of 1-[5-fluoro-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-4-ylmethyl]-1,2,3,4-tetrahydroquinoline (103 mg) at room temperature in tetrahydrofuran (THF) (5 ml) under an argon atmosphere was added tetra-n-butylammonium fluoride (TBAF) (1.1 ml; 1 M solution in THF). The mixture was heated to 60° C. and stirring at that temperature was continued for 20 minutes, then the mixture was adsorbed directly on silica gel. The crude product was isolated by column chromatography (silica gel; gradient: cyclohexane→ethyl acetate) to give 1-(5-fluoro-1H-imidazol-4-ylmethyl)-1,2,3,4-tetrahydro-quinoline (32 mg) as light yellow solid. (MS (ISP): 232.1 ([M+H]+).

reactant | 1-[5-fluoro-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-4-ylmethyl]-1,2,3,4-tetrahydroquinoline | 103 mg | FC1=C(N=CN1COCC[Si](C)(C)C)CN1CCCC2=CC=CC=C12 | C19H28FN3OSi
reactant | tetra-n-butylammonium fluoride | 1 M, 1.1 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | cyclohexane | C1CCCCC1 | C6H12
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-(5-fluoro-1H-imidazol-4-ylmethyl)-1,2,3,4-tetrahydro-quinoline | 32 mg | FC1=C(N=CN1)CN1CCCC2=CC=CC=C12 | C13H14FN3
